US06974870B2
Thiourea (339 mg, 4.46 mmol) was added to a solution of 2-chloro-3-cyano-6-methyl-isonicotinic acid ethyl ester (500 mg, 2.23 mmol) in EtOH (25 mL) at room temperature. The mixture was heated to reflux for 24 h. The mixture was cooled (crystallization began upon cooling) to room temperature. The solid was collected by vacuum filtration giving 3-cyano-2-mercapto-6-methyl-isonicotinic acid ethyl ester (250 mg, 50%) as a yellow orange solid.

reactant | Thiourea | 4.46 mmol, 339 mg | NC(=S)N | CH4N2S
reactant | 2-chloro-3-cyano-6-methyl-isonicotinic acid ethyl ester | 2.23 mmol, 500 mg | C(C)OC(C1=C(C(=NC(=C1)C)Cl)C#N)=O | C10H9ClN2O2
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-cyano-2-mercapto-6-methyl-isonicotinic acid ethyl ester | 250 mg, 50% | C(C)OC(C1=C(C(=NC(=C1)C)S)C#N)=O | C10H10N2O2S
